US04885283
1.06 g of L-leucyl-L-alanine ethyl ester hydrochloride and 1.46 g of 2(RS)-[[(RS)-(methoxy)(phthalimidomethyl)-phosphinyl]methyl]-4-methylvaleric acid, prepared as described in Example 1(A)(iii), were dissolved in 12 ml of dimethylformamide. The solution was cooled to 0° C. Thereafter, 1.08 g of hydroxybenzotriazole and 0.46 g of N-ethylmorpholine were added and, after all of the solids had dissolved, 0.88 g of N,N'-dicyclohexylcarbodiimide was added. The mixture was stirred at room temperature for 18 hours. The solvent was then removed by evaporation. The residue was triturated with 50 ml of ethyl acetate and the mixture was filtered in order to remove dicyclohexylurea. The filtrate was washed twice with 50 ml of saturated sodium hydrogen carbonate solution each time, dried over anhydrous sodium sulfate and evaporated to give a yellow gum. This gum was purified by flash chromatography using ethyl acetate for the elution. There were obtained 1.06 g of [(R or S)-2-[[(S)-1-[[(S)-1-(ethoxycarbonyl)ethyl]carbamoyl]-3-methyl-butyl]carbamoyl]-4-methylpentyl](phthalimidomethyl)phosphinic acid methyl ester hydrochloride in the form of a white foam.

reactant | L-leucyl-L-alanine ethyl ester hydrochloride | 1.06 g | Cl.C(C)OC([C@@H](NC([C@@H](N)CC(C)C)=O)C)=O
reactant | 2(RS)-[[(RS)-(methoxy)(phthalimidomethyl)-phosphinyl]methyl]-4-methylvaleric acid | 1.46 g | COP(=O)(CN1C(C=2C(C1=O)=CC=CC2)=O)CC(C(=O)O)CC(C)C | C17H22NO6P
reactant | hydroxybenzotriazole | 1.08 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | N-ethylmorpholine | 0.46 g | C(C)N1CCOCC1 | C6H13NO
reactant | N,N'-dicyclohexylcarbodiimide | 0.88 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | (phthalimidomethyl)phosphinic acid methyl ester hydrochloride | Cl.COP(=O)CN1C(C=2C(C1=O)=CC=CC2)=O | InChI=1S/C10H10NO4P.ClH/c1-15-16(14)6-11-9(12)7-4-2-3-5-8(7)10(11)13;/h2-5,16H,6H2,1H3;1H
